US07855294B2
1) 8-Benzyl-3-phenyl-8-aza-bicyclo[3.2.1]octan-3-ol
2.80 g of the entitled compound was obtained as a white powder in the same manner as in Production Example 8-3, for which, however, benzyl 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylate and phenylmagnesium bromide were used in place of tert-butyl 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylate and the lithium reagent prepared from and 2-bromobenzyl alcohol and n-butyllithium-hexane solution used in Production Example 8-3.

reactant | benzyl 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylate | O=C1CC2CCC(C1)N2C(=O)OCC2=CC=CC=C2 | C15H17NO3
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | tert-butyl 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylate | O=C1CC2CCC(C1)N2C(=O)OC(C)(C)C | C12H19NO3
reactant | lithium | [Li] | Li
reactant | 2-bromobenzyl alcohol | BrC1=C(CO)C=CC=C1 | C7H7BrO
product | 8-Benzyl-3-phenyl-8-aza-bicyclo[3.2.1]octan-3-ol | C(C1=CC=CC=C1)N1C2CC(CC1CC2)(O)C2=CC=CC=C2 | C20H23NO
